US04892966
15.20 g (110 mmol) of potassium carbonate and 0.46 g (2 mmol) of benzyltriethylammonium chloride are suspended in 100 ml of acetonitrile. While stirring there are added thereto 21.60 g (100 mmol) of methyl 4-methoxy-2-[1 -methylacetonyl]-acetoacetate, the mixture is heated to 60° C. and 28.39 g (200 mmol) of methyl iodide are added dropwise thereto within 30 minutes. The mixture is stirred at 60° C. for a further 16 hours; then 6.91 g (50 mmol) of potassium carbonate and 7.10 g (50 mmol) of methyl iodide are again added and the mixture is stirred at 60° C. for a further 21 hours. 6.90 g (50 mmol) of potassium carbonate in 300 ml of distilled water are now added thereto. The reaction mixture is held at reflux temperature for 6 hours. It is then extracted 3 times with 100 ml of ether each time. The combined organic phases are dried over magnesium sulphate and concentrated on a rotary evaporator. The crude product distils at 70°-78° C./12 mm and yields 6.03 g (39.2%) of 2-methoxy-3,4,5-trimethyl-2-cyclopenten-1-one.

reactant | potassium carbonate | 110 mmol, 15.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 4-methoxy-2-[1 -methylacetonyl]-acetoacetate | 100 mmol, 21.60 g | COCC(C(C(=O)OC)C(C(=O)C)C)=O | C10H16O5
reactant | methyl iodide | 200 mmol, 28.39 g | CI | CH3I
reactant | potassium carbonate | 50 mmol, 6.91 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 50 mmol, 7.10 g | CI | CH3I
reactant | potassium carbonate | 50 mmol, 6.90 g | C([O-])([O-])=O.[K+].[K+]
catalyst | benzyltriethylammonium chloride | 2 mmol, 0.46 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | water | 300 ml | O | H2O
product | 2-methoxy-3,4,5-trimethyl-2-cyclopenten-1-one | 6.03 g, 39.2% | COC=1C(C(C(C1C)C)C)=O | C9H14O2
